Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Ciprofloxacin / Quinolones / adhesive tape
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea, vomiting

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
    Ms. ___ is a ___ yo woman with a history significant 
for a remote  gastric bypass followed by multiple small bowel 
obstructions s/p partial small-bowel resection and recurrent 
ventral hernia s/p repairs. 
    She presented on ___ to an outside hospital with a 1 day 
history of abdominal pain and dry heaves. She was in her usual 
state of health until ___, when she began to experience  
abdominal discomfort. The pain was dull, at the right lower 
quadrant along the location of her ventral hernia without any 
radiation. No fever. Last bowel movement was 2 days before 
admission, however she continued to pass gas normally.
    She presented to OSH ED, where CT scan was suggestive of 
small bowel obstruction. A nasogastric tube was placed, IV 
fluids were started and she was transferred to ___ for further 
care given her h/o bariatric surgery.
 
Past Medical History:
SBO
PE
DVT
Depression

PSH:
Gastric bypass
Open cholecystectomy
Ventral hernia repair
Laser lithotripsy, right ureteral stent (___)

 
Social History:
___
Family History:
Lymphoma in 1 sister, breast cancer in mother

 
Physical ___: 100.0  98.8  89  124/78  16  93%RA
GEN: A&O, NAD, ambulating
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: clear
ABD: soft, nontender
Ext: Warm, dry, no clubbing/cyanosis/edema
 
Pertinent Results:
LABS

___ 07:00AM BLOOD WBC-9.9 RBC-5.16 Hgb-14.3 Hct-44.8 MCV-87 
MCH-27.7 MCHC-32.0 RDW-19.0* Plt ___

___ 07:15AM BLOOD ___ PTT-22.3 ___

___ 07:00AM BLOOD Glucose-68* UreaN-7 Creat-0.6 Na-142 
K-3.8 Cl-103 HCO3-26 AnGap-17

___ 07:00AM BLOOD Calcium-8.1* Phos-2.9 Mg-1.8

MICRO

___ 01:13AM URINE Blood-MOD Nitrite-POS Protein-NEG 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG

___ URINE URINE CULTURE-PRELIMINARY {GRAM NEG 
RODS}

RADIOLOGY

Abdomen film, ___:
IMPRESSION: Non-obstructive bowel gas pattern with no free air.

 
Brief Hospital Course:
Ms. ___ was admitted to the Surgical Service for evaluation 
and treatment after transfer from an outside hospital.  After 
the outside CT scan was suggestive of a partial small bowel 
obstruction, she was managed conservatively with nasogastric 
decompression and appropriate diet advancement until her bowel 
function returned and she was discharged in good condition.
 
NEURO: She was managed initially with iv morphine for pain 
control. Once tolerating oral intake on ___, she was 
transitioned to oral vicodin. Her neurologic status was intact 
throughout the admission.
CV: She remained stable from a cardiovascular standpoint; vital 
signs were routinely monitored.
PULM: She remained stable from a pulmonary standpoint; vital 
signs were routinely monitored. 
GI/GU/FEN: On admission, she was made NPO with IV fluids, and a 
nasogastric tube was placed for decompression. The diet was 
advanced to clear liquids on ___, and further to a regular 
diet later the same day. Her intake and output were closely 
monitored, and IV fluid was adjusted as appropriate. 
Electrolytes were routinely followed, and repleted when 
necessary.
ID: A urine culture demonstrated on ___ an E. coli urinary 
tract infection. She was asymptomatic. She was discharged on PO 
Bactrim with instructions to follow up with her primary car 
provider.
Endocrine: Her blood sugar was monitored throughout her stay, 
with blood glucose values between 68 and 101.
Hematology: The patient has a history of DVT/PE; accordingly her 
complete blood count and coagulation studies were examined 
routinely. By the day of discharge, she was resumed on her 
normal dose of coumadin with instructions to follow up with her 
___ clinic and primary care physician.
Prophylaxis: She received subcutaneous heparin and venodyne 
boots were used during this stay. She was encouraged to ambulate 
as early as safely possible.
 
At the time of discharge on ___, she was doing well, 
afebrile with stable vital signs. She was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was not 
an issue. She received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
Tylenol 1 g PO TID
Zyrtec 10 mg PO daily
Cardizem 300 mg po daily
Cymbalta 90 mg po daily
Neurontin 600 mg po TID
Vitamin D 400 U po daily
Coumadin 5 mg tablet, up to 3 tabs daily, given INR
Vicodin 1 tab po q4-6 hrs PRN pain

 
Discharge Medications:
1. diltiazem HCl 300 mg Capsule, Extended Release Sig: One (1) 
Capsule, Extended Release PO DAILY (Daily).  
2. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. gabapentin 300 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
4. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
5. warfarin 5 mg Tablet Sig: Two (2) Tablet PO ONCE (Once) for 1 
doses.  
6. Bactrim DS 800-160 mg Tablet Sig: One (1) Tablet PO twice a 
day for 5 days.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Partial small bowel obstruction

 
Discharge Condition:
Good. Mental status: awake, alert and oriented x3. Ambulating.

 
Discharge Instructions:
You were admitted to the general surgery service for a partial 
small bowel obstruction.

You are also being treated for an infection of your bladder 
(urinary tract infection).  Please take your medication 
(Bactrim) as prescribed, and please discuss this with your 
primary care physician and with the ___ clinic.
 
Please call your doctor or go to the emergency department if:
*You experience new chest pain, pressure, squeezing or 
tightness.
*You develop new or worsening cough, shortness of breath, or 
wheeze.
*You are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons.  Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience an unusual discharge.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*You develop any concerning symptoms.

General Discharge Instructions:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Please take any 
new medications as prescribed.
Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids.  Avoid strenuous 
physical activity and refrain from heavy lifting greater than 20 
lbs., until you follow-up with your surgeon, who will instruct 
you further regarding activity restrictions.  Please also 
follow-up with your primary care physician.

Warfarin (Coumadin):
What is this medicine used for?
This medicine is used to thin the blood so that clots will not 
form.
How does it work?
Warfarin changes the body's clotting system.  It thins the blood 
to prevent clots from forming.
What you should contact your healthcare provider ___:
Signs of a life-threatening reaction. These include wheezing; 
chest tightness; fever; itching; bad cough; blue skin color; 
fits; or swelling of face, lips, tongue, or throat, severe 
dizziness or passing out, falls or accidents, especially if you 
hit your head. Talk with healthcare provider even if you feel 
fine, significant change in thinking clearly and logically, 
severe headache, severe back pain, severe belly pain, black, 
tarry, or bloody stools, blood in the urine, nosebleeds, 
coughing up blood, vomiting blood, unusual bruising or bleeding, 
severe menstrual bleedin, or rash.
Call your doctor if you are unable to eat for several days, for 
whatever reason. Also call if you have stomach problems, 
vomiting, or diarrhea that lasts more than 1 day. These problems 
could affect your Coumadin/warfarin dosage.
Coumadin (Warfarin) and diet:
Certain foods and beverages can impair the effect of warfarin. 
For this reason, it's important to pay attention to what you eat 
while taking this medication. 
Until recently, doctors advised ___ taking warfarin to avoid 
foods high in vitamin K. This is because large amounts of 
vitamin K can counteract the benefits of warfarin. However, 
recent research shows that rather than eliminating vitamin K 
from your diet, it is more important to be consistent in your 
dietary vitamin K intake.
 
These foods contain vitamin K:
Fruits and vegetables, such as: Kiwi, Blueberries, Broccoli, 
Cabbage, ___ sprouts, Green onions, Asparagus, Cauliflower, 
Peas, Lettuce, Spinach, Turnip, ___, and mustard greens, 
Parsley, Kale, Endive. Meats, such as: Beef liver, Pork liver. 
Other: ___, Margarine, Canola oil, Soybean oil, Vitamins, 
Soybeans and Cashews.
Limit alcohol. Alcohol can affect your ___ dosage 
but it does not mean you must avoid all alcohol. Serious 
problems can occur with alcohol and ___ when you 
drink more than 2 drinks a day or when you change your usual 
pattern. Binge drinking is not good for you. Be careful on 
special occasions or holidays, and drink only what you usually 
would on any regular day of the week.
Monitoring:
The doctor decides how much ___ you need by 
testing your blood. The test measures how fast your blood is 
clotting and lets the doctor know if your dosage should change. 
If your blood test is too high, you might be at risk for 
bleeding problems. If it is too low, you might be at risk for 
forming clots. Your doctor has decided on a range on the blood 
test that is right for you. The blood test used for monitoring 
is called an INR.
Use of Other medications: 
When Coumadin/warfarin is taken with other medicines it can 
change the way other medicines work. Other medicines can also 
change the way ___ works. It is very important to 
talk with your doctor about all of the other medicines that you 
are taking, including over-the-counter medicines, antibiotics, 
vitamins, or herbal products.

 
Followup Instructions:
___